US06407138B1
About 2252 grams of water was used to dissolve 450.42 grams of glycine and 168.24 grams of calcium oxide into solution. The resulting reaction formed a calcium trisglycinate chelate or complex solution.

reactant | glycine | 450.42 grams | NCC(=O)O | C2H5NO2
reactant | calcium oxide | 168.24 grams | [O-2].[Ca+2]
solvent | water | 2252 grams | O | H2O
product | calcium trisglycinate | NCC(=O)[O-].NCC(=O)O.NCC(=O)[O-].[Ca+2] | InChI=1S/3C2H5NO2.Ca/c3*3-1-2(4)5;/h3*1,3H2,(H,4,5);/q;;;+2/p-2
